US08809352B2
1-(4′-Chloro-biphenyl-2-ylmethyl)-piperidin-4-one.
8-((4′-Chlorobiphenyl-2-yl)methyl)-1,4-dioxa-8-azaspiro[4.5]decane (4.73 g, 13.76 mmol) was dissolved in dioxane (50 mL) and water (30 mL). Hydrochloric acid (37%, 14.3 mL, 174 mmol) was added, and the reaction was heated to 85° C. for 26 hours. After cooling to room temperature, the volatiles are removed in vacuo. The remaining aqueous phase is basified to pH ˜9 with 2M NaOH, and then extracted with CH2Cl2. The organic layers are dried over MgSO4 and concentrated to afford the title compound (4.13 g, 100% yield). MS (ESI) m/e (M+H)+: 300.4

reactant | 8-((4′-Chlorobiphenyl-2-yl)methyl)-1,4-dioxa-8-azaspiro[4.5]decane | 13.76 mmol, 4.73 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CCC2(OCCO2)CC1 | C20H22ClNO2
reactant | Hydrochloric acid | 174 mmol, 14.3 mL | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
product | 1-(4′-Chloro-biphenyl-2-ylmethyl)-piperidin-4-one | 4.13 g, 100% yield | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CCC(CC1)=O | C18H18ClNO
